US07309698B2
A slurry of 18.02 g (110 mmol) of carsalam, 18.0 mL (15.84 g, 109 mmol) of 6-dimethylamino-1-hexanol, 29.12g (111 mmol) of triphenylphosphine,. and 150 mL of tetrahydrofuran was treated with a solution of 21.8 mL (22.39 g, 111 mmol) of diisopropyl azodicarboxylate and 40 mL of tetrahydrofuran, added dropwise over 20 minutes, causing the temperature of the slurry to rise to about 67° C. The reaction mixture was allowed to cool back to about 25° C. and stir for about 20 hours. The solution was treated with 150 mL (300 mmol) of aqueous 2N sodium hydroxide and warmed to about 60° C. for about 90 minutes. The reaction mixture was washed with ethyl acetate (2×60 mL). The aqueous phase was acidified with 4% aqueous hydrochloric acid to a pH slightly less than about 0 and washed with ethyl acetate (2×60 mL). The pH of the aqueous phase was raised to about 4.5 with 50% aqueous potassium carbonate and washed with ethyl acetate (2×60 mL). The aqueous phase was treated with solid sodium bicarbonate and extracted with ethyl acetate (14×60 mL). The combined 14 ethyl acetate extracts were dried over sodium sulfate and concentrated to a viscous liquid. The liquid was taken up into a minimum amount of ethyl acetate, diluted with 100 ml of hexanes and treated in an ice bath with 150 mL of hexanes, causing a white solid to develop. A total of 13.65 g of N-(6-dimethylaminohexyl)salicylamide was isolated by filtration.

reactant | carsalam | 110 mmol, 18.02 g | C=1C=CC2=C(C1)C(=O)NC(=O)O2 | C8H5NO3
reactant | 6-dimethylamino-1-hexanol | 109 mmol, 18.0 mL, 15.84 g | CN(CCCCCCO)C | C8H19NO
reactant | triphenylphosphine | 111 mmol, 29.12g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 111 mmol, 21.8 mL, 22.39 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | N-(6-dimethylaminohexyl)salicylamide | 13.65 g | CN(CCCCCCNC(C=1C(O)=CC=CC1)=O)C | C15H24N2O2
